US04939261
The solution of 1.5 g of 3-aminopropionic acid and 1.8 g of sodium carbonate in 30 ml of water at 0° is added to 2.2 g of 4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl chloride and the mixture is stirred at room temperature for 4 hours. The mixture is extracted with ether, and the aqueous layer is acidified with 2N hydrochloric acid. The acidic solution is extracted with ethyl acetate, washed with saturated brine, dried (magnesium sulfate), filtered and concentrated. The residue is recrystallized from ether to yield N-[4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-3-aminopropionic acid, melting at 84°-86°; NMR (CDCl3) δ 10.5 (1H, CO2H), 6.1 (t, 1H, J=6 Hz, NH), 4.1 (q, 2H, J=8 Hz, OCH2), 1.08 (t, 3H, J=8 Hz, CH3).

reactant | 3-aminopropionic acid | 1.5 g | NCCC(=O)O | C3H7NO2
reactant | sodium carbonate | 1.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl chloride | 2.2 g | C(C)OC(=O)[C@H](C[C@@H](C(=O)Cl)CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H23ClO3
solvent | water | 30 ml | O | H2O
product | N-[4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-3-aminopropionic acid | C(C)OC(=O)[C@H](C[C@@H](C(=O)NCCC(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H29NO5
